US07858623B2
Methyl 2-hydroxy-4-iodonicotinate (123 mg, 441 μmol), phenylboronic acid (161 mg, 1322 μmol), copper acetate (160 mg, 882 μmol) were combined. Dichloroethane (6 mL) was added followed by molecular sieves 4 Å activated (490 mg) and pyridine (143 μl, 1763 μmol). The reaction mixture was stirred at 55° C. for 3 h. LCMS analysis of an aliquot showed the reaction was complete. The reaction mixture was diluted with dichloromethane and filtered through a pad of celite (rinsing with dichloromethane). The filtrate was concentrated in vacuo and purification by MPLC (ISCO, CH2Cl2/MeOH: 100/0 to 97.5/2.5) afforded methyl 4-iodo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylate (142 mg, 400 μmol, 91% yield). MS (ESI pos. ion) m/z: 356 (MH+). Calc'd exact mass for C13H10INO3: 355.

reactant | Methyl 2-hydroxy-4-iodonicotinate | 441 μmol, 123 mg | OC1=C(C(=O)OC)C(=CC=N1)I | C7H6INO3
reactant | phenylboronic acid | 1322 μmol, 161 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
reactant | pyridine | 1763 μmol, 143 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper acetate | 882 μmol, 160 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | methyl 4-iodo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylate | 400 μmol, 142 mg, 91% yield | IC1=C(C(N(C=C1)C1=CC=CC=C1)=O)C(=O)OC | C13H10INO3
